US05574178
A solution of 2-(2-bromoethyl)-1,3-dioxane (50 g) in tetrahydrofuran (200 ml) was added to magnesium (6.6 g) under a nitrogen atmosphere to prepare a Grignard reagent. A solution of 4-acetoxy-2-acetonyl-3,5-di-tert-butylanisole in tetrahydrofuran (200 ml) was added dropwise to the reagent. After stirring the mixture at room temperature for 3 h, a saturated aqueous solution of ammonium chloride was added and the resulting mixture was subjected to extraction with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel chromatography (33% ethyl acetate in n-hexane) to afford 4-acetoxy-2-[4-(1,3-dioxa-2-cyclopentyl)-2-hydroxy-2-methylbutyl]-3,5-di-tert-butylanisole [27.9 g (yield, 69%)] as a colorless oil.

reactant | 2-(2-bromoethyl)-1,3-dioxane | 50 g | BrCCC1OCCCO1 | C6H11BrO2
reactant | magnesium | 6.6 g | [Mg] | Mg
reactant | 4-acetoxy-2-acetonyl-3,5-di-tert-butylanisole | C(C)(=O)OC1=C(C(=C(C=C1C(C)(C)C)OC)CC(=O)C)C(C)(C)C | C20H30O4
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4-acetoxy-2-[4-(1,3-dioxa-2-cyclopentyl)-2-hydroxy-2-methylbutyl]-3,5-di-tert-butylanisole | 27.9 g, 69% | C(C)(=O)OC1=C(C(=C(C=C1C(C)(C)C)OC)CC(CCC1OCCO1)(C)O)C(C)(C)C | C25H40O6
